US04855086
Chloroacetyl chloride (37.58 g) was added dropwise over 1 hour to a solution of isobutylamine (46.8 g) in ether (500 ml) maintaining the temperature below 5° C. Water (100 ml) was then added, and the organic layer was separated and washed with dilute hydrochloric acid, sodium hydroxide, and brine dried (MgSO4). The solvent was removed in vacuo to yield N-isobutylchloroacetamide (47 g).

reactant | Chloroacetyl chloride | 37.58 g | ClCC(=O)Cl | C2H2Cl2O
reactant | isobutylamine | 46.8 g | C(C(C)C)N | C4H11N
reactant | Water | 100 ml | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
product | N-isobutylchloroacetamide | 47 g | C(C(C)C)NC(CCl)=O | C6H12ClNO
